US04321268
Preparation of p-cumylphenyl nicotinate
42.4 g (200 mmol) of p-cumylphenol and 40 g (220 mmol) nicotinic acid chloride hydrochloride was mixed with 600 ml dry pyridine and stirred for 24 hours at 40° C. After cooling precipitated pyridine hydrochloride was sucked off and the filtrate mixed with 150 ml of water. The precipitated raw product was washed with two 100 ml portions of water and recrystallized from methanol.

reactant | p-cumylphenol | 200 mmol, 42.4 g | C(C)(C)(C1=CC=CC=C1)C1=CC=C(C=C1)O | C15H16O
reactant | nicotinic acid chloride hydrochloride | 220 mmol, 40 g | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | pyridine | 600 ml | N1=CC=CC=C1 | C5H5N
product | p-cumylphenyl nicotinate | C(C1=CN=CC=C1)(=O)OC1=CC=C(C=C1)C(C)(C)C1=CC=CC=C1 | C21H19NO2
